US06069156
Methyl 3-isobutyrylindole-6-carboxylate (618 mg) was prepared from methyl indole-6-carboxylate (500 mg) and isobutyryl chloride (0.84 ml) in a similar manner to that of Preparation 1 (5).

reactant | methyl indole-6-carboxylate | 500 mg | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | isobutyryl chloride | 0.84 ml | C(C(C)C)(=O)Cl | C4H7ClO
product | Methyl 3-isobutyrylindole-6-carboxylate | 618 mg | C(C(C)C)(=O)C1=CNC2=CC(=CC=C12)C(=O)OC | C14H15NO3
